US06953790B2
Step A. Benzyl 4-{[1-(methoxycarbonyl)but-3-en-1-yl]amino}piperidine-1-carboxylate
Sodium triacetoxyborohydride (11.2 g, 52.6 mmol) was added to a solution of methyl 2-aminopent-4-enoate (3.4 g, 26.3 mmol), acetic acid (2.37 g, 39.5 mmol) and benzyl 4-oxopiperidine-1-carboxylate (9.21 g, 39.5 mmol) in dichloroethane (60 mL) at room temperature. After 3 h, the reaction was quenched with saturated aqueous sodium bicarbonate, extracted with methylene chloride (3×), dried over sodium sulfate, filtered and evaporated to give the crude product. This was purified by chromatography (silica gel, 0 to 8% methanol in methylene chloride gradient elution), which gave the title compound (9.42 g). MS 347.2 (M+1).

reactant | Sodium triacetoxyborohydride | 52.6 mmol, 11.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 2-aminopent-4-enoate | 26.3 mmol, 3.4 g | NC(C(=O)OC)CC=C | C6H11NO2
reactant | acetic acid | 39.5 mmol, 2.37 g | C(C)(=O)O | C2H4O2
reactant | benzyl 4-oxopiperidine-1-carboxylate | 39.5 mmol, 9.21 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
product | Benzyl 4-{[1-(methoxycarbonyl)but-3-en-1-yl]amino}piperidine-1-carboxylate | 9.42 g | COC(=O)C(CC=C)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O4
